US07977340B2
A solution of ammonium thiocyanate (4.45 g, 0.0585 mol) in anhydrous acetone (48 ml) was treated dropwise with benzoyl chloride (6.47 ml, 0.05583 mol) and stirred at ambient temperature for 1 h. A solution of 3-Bromo-5-iodoaniline (15.85 g, 0.05319 mol) in anhydrous acetone (48 ml) was then added in one portion and the mixture stirred at ambient temperature for 16 h. The resultant suspension was poured into water (300 ml) and stirred for 0.5 h. The precipitated solid was collected by filtration washed with water followed by 40-60° petroleum ether and dried in vacuo to afford 1-Benzoyl-3-(3-bromo-5-iodo-phenyl)-thiourea (20.70 g, 84%).

reactant | ammonium thiocyanate | 0.0585 mol, 4.45 g | [S-]C#N.[NH4+]
reactant | benzoyl chloride | 0.05583 mol, 6.47 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 3-Bromo-5-iodoaniline | 0.05319 mol, 15.85 g | BrC=1C=C(N)C=C(C1)I | C6H5BrIN
reactant | water | 300 ml | O | H2O
solvent | acetone | 48 ml | CC(=O)C | C3H6O
solvent | acetone | 48 ml | CC(=O)C | C3H6O
product | 1-Benzoyl-3-(3-bromo-5-iodo-phenyl)-thiourea | 20.70 g, 84% | C(C1=CC=CC=C1)(=O)NC(=S)NC1=CC(=CC(=C1)I)Br | C14H10BrIN2OS
